datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:82][C:71]([C-:10](Cl)[C:61](=[O:62])[O:92]CC)=[O:72].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:82][C:71]([C:10](Cl)([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].CC1(C)C[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1>>CC(C)[O:33][C:22](=[N:21][N:20]([C:10]1([I+:61]C2=CC=CC=C2)[C:11](=[O:12])CC(C)(C)C[C:91]1=[O:92])[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:22]([CH:21]=[CH2:20])=[O:23].N#CC1=CC=C([N+:61]#[C-:10])C=C1>>C[C:22](=[CH:21][CH2:20][C:10]#[N+:61]C1=CC=C(C#N)C=C1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[S-:10][C:61]#[N:62]>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([S:10][C:61]#[N:62])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][C:11](C)=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[C:11](C)=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](OC)[CH:64]=[CH:63]3)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[C:11]1=[CH:10][CH:61]=[CH:62][C:13]([O:14]C)=[CH:12]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[C:11]1=[CH:12][C:13](=[O+:14]C)[CH:62]=[CH:61][CH:10]1[CH:20]1C=CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C1CC[N:10]([N:61]=[CH2:62])C1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([N+:10]2([N:61]=[CH2:62])CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1 10=20;20,21=21,22;22,23=23"
"COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1.[N-:10]1[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]1>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([N:10]2[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]2)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.FC1=CC(F)=C([B-:11](C2=C(F)C=C(F)C=C2F)(C2=C(F)C=C(F)C=C2F)[H:10])C(F)=C1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.FC1=CC(F)=C([B:11](C2=C(F)C=C(F)C=C2F)C2=C(F)C=C(F)C=C2F)C(F)=C1 10,11=10,20"
"C[C:11]1=[CH:10]CCCC1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[C+:11]1CCCC[CH:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1>>CC1=CC=C([S:32]([N-:21][C:20]([C:10](C)([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]2)=[O:52])(=[O:33])=[O:43])C=C1 10,11=10,20;12=11,12;20,21=21"
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1>>CN(C)C1=CC=C([CH:20]([H:10])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1 10,11=10,20;20,21=21"
"CN1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>CN1CC[N+:12](=[C:11]2CCCC[CH:10]2[S:20]C(F)(F)F)CC1.C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(CC2CCC[NH:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCCC2CC2=CC=CC=C2)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.[CH2:20]=[CH:21][C:22]#[N:23]>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)S1.CC1=CC=[C:10]([CH2:20][CH:21]=[C:22]=[N-:23])S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
